US05418238
N-ethoxycarbonyl-3-amino-4,4-dimethyl-pentan-2-one (203 mg) is dissolved in 48% aqueous hydrobromic acid (4 ml) and the solution is stirred under reflux for 6 hours. The reaction mixture is then evaporated under reduced pressure to give a solid residue, that is further purified by recrystallisation (from ethanol/diethylether) to afford 149 mg of pure (3RS)-3-amino-4,4-dimethyl-pentan-2-one hydrobromide (m.p. 218°-220° C.)

reactant | N-ethoxycarbonyl-3-amino-4,4-dimethyl-pentan-2-one | 203 mg | C(C)OC(=O)NC(C(C)=O)C(C)(C)C | C10H19NO3
reactant | hydrobromic acid | 4 ml | Br | BrH
product | (3RS)-3-amino-4,4-dimethyl-pentan-2-one hydrobromide | 149 mg | Br.NC(C(C)=O)C(C)(C)C | InChI=1S/C7H15NO.BrH/c1-5(9)6(8)7(2,3)4;/h6H,8H2,1-4H3;1H
